US07456186B2
Preparation of 2-(3-Bromo-4-fluorobenzoyl)-2,3,4,5-tetrahydropyrimidine
A mixture of 1-(3-bromo-4-fluorophenyl)-1-(2-tetrahydropyrimidinyl)methanol (23.4 g, 81.5 mmol) and manganese dioxide (70.8 g, 815 mmol) in methylene chloride is stirred at room temperature for 3 days and filtered through diatomaceous earth. The filtercake is washed with chloroform. The filtrates are combined and concentrated to dryness to afford the title compound as a yellow-green solid, 18.9 g (81% yield), identified by NMR and mass spectral analyses. 1H NMR (500 MHz, CDCl3) δ 8.51 (m, 1H), 8.23 (m, 1H), 7.15 (t, J=8.4 Hz, 1H), 6.10 (br s, 1H), 3.65 (br s, 2H), 3.41 (br s, 2H), 1.83 (m, 2H); ESI MS m/z 284 [C11H10BrFN2O+H]+.

reactant | 1-(3-bromo-4-fluorophenyl)-1-(2-tetrahydropyrimidinyl)methanol | 81.5 mmol, 23.4 g | BrC=1C=C(C=CC1F)C(O)C1NC=CCN1 | C11H12BrFN2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 815 mmol, 70.8 g | [O-2].[O-2].[Mn+4]
product | 2-(3-Bromo-4-fluorobenzoyl)-2,3,4,5-tetrahydropyrimidine | 81% yield | BrC=1C=C(C(=O)C2N=CCCN2)C=CC1F | C11H10BrFN2O
